US05674886
3.36 Grams of potassium tert-butoxide was added to 15 ml of anhydrous dimethylsulfoxide and the mixture was stirred for 30 minutes at room temperature. Next, 2.52 g of 4-amino-4H-1,2,4-triazole was added to the solution. After the reaction mixture was stirred for 15 minutes at room temperature, 1.64 g of 4-fluorobenzotrifluoride was added thereto and the mixture was stirred for further 30 minutes at room temperature. Ice-water was added to the reaction mixture, which was then neutralized with a diluted hydrochloric acid. The crystals as precipitated out were collected by filtration to give 1.93 g of 4-[(4-trifluoromethylphenyl)amino]-4H-1,2,4-triazole.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-amino-4H-1,2,4-triazole | 2.52 g | NN1C=NN=C1 | C2H4N4
reactant | 4-fluorobenzotrifluoride | 1.64 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 4-[(4-trifluoromethylphenyl)amino]-4H-1,2,4-triazole | 1.93 g | FC(C1=CC=C(C=C1)NN1C=NN=C1)(F)F | C9H7F3N4
